US07977351B2
3-(2-{[(2-Diethylamino-ethyl)-methyl-amino]-methyl}-7H-furo[3,4-b]pyridin-5-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (125 mg, 0.83 mmol.) in THF (4 mL) is treated with a solution of lithium bis(trimethylsilyl)amide (1.66 mL of a 1M solution in THF, 1.66 mmol) dropwise. The resulting solution is stirred for 20 min at room temperature. A solution of 2-{[(2-diethylamino-ethyl)-methyl-amino]-methyl}-7H-furo[3,4-b]pyridin-5-one (115 mg, 0.41 mmol) in THF (1.5 mL) is added dropwise to the reaction mixture. The resulting solution is stirred at room temperature for 4 h and then poured into 10% aqueous HCl solution (30 mL) previously cooled to 0° C. The ice bath is removed and the solution is stirred at room temperature for 16 h. The yellow solution is then cooled and solid NaHCO3 is carefully added to adjust the solution to pH=8. The aqueous layer is extracted with EtOAc. The combined organic extracts are dried with anhydrous Na2SO4 and concentrated. The solid residue is broken up in isopropyl alcohol to give a yellow solid. The yellow solid is collected by filtration to give the title compound (102 mg, 61%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.83 mmol, 125 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-{[(2-diethylamino-ethyl)-methyl-amino]-methyl}-7H-furo[3,4-b]pyridin-5-one | 0.41 mmol, 115 mg | C(C)N(CCN(C)CC1=CC=C2C(=N1)COC2=O)CC | C15H23N3O2
reactant | HCl | 30 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 3-(2-{[(2-Diethylamino-ethyl)-methyl-amino]-methyl}-7H-furo[3,4-b]pyridin-5-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 102 mg, 61% | C(C)N(CCN(C)CC1=CC=C2C(=N1)COC2=C2C(NC1=CC=C(C=C21)F)=O)CC | C23H27FN4O2
